US07115750B1
Methyl [6-(acetylamino)-3,4-dihydro-2-naphthalenyl]acetate
Sodium borohydride (72.4 mg, 1.91 mmol) was added to a methanol solution (10 ml) of methyl [6-(acetylamino)-1-oxo-1,2,3,4-tetrahydro-2-naphthalenyl]acetate (527 mg, 1.91 mmol) obtained in Reference Example 100 under ice-cooling, which was stirred for 1 hour. Ethyl acetate was added to the reaction mixture, which was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and then the solvent was distilled out under reduced pressure. The resulting oily substance was purified by alumina B column chromatography (development solvent; ethyl acetate). Concentrated sulfuric acid (0.14 ml) was added to an acetic acid solution (7 ml) of the oil (404 mg, 1.46 mmol), which was stirred at 40° C. for 5 hours. The solvent was distilled out under reduced pressure. Ethyl acetate was added to the residue, which was washed with aqueous potassium carbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and then the solvent was distilled out under reduced pressure. The resulting oily substance was purified by silica gel column chromatography (development solvent; hexane:ethyl acetate=1:1), to give the titled compound (251 mg).

reactant | Sodium borohydride | 1.91 mmol, 72.4 mg | [BH4-].[Na+]
reactant | methanol | 10 ml | CO | CH4O
reactant | methyl [6-(acetylamino)-1-oxo-1,2,3,4-tetrahydro-2-naphthalenyl]acetate | 1.91 mmol, 527 mg | C(C)(=O)NC=1C=C2CCC(C(C2=CC1)=O)CC(=O)OC | C15H17NO4
reactant | sulfuric acid | 0.14 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 7 ml | C(C)(=O)O | C2H4O2
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl [6-(acetylamino)-3,4-dihydro-2-naphthalenyl]acetate | 251 mg | C(C)(=O)NC=1C=C2CCC(=CC2=CC1)CC(=O)OC | C15H17NO3
